US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 4-fluoro-2-methoxybenzeneboronic acid were coupled in the same way as in Example 30 to give 2-[3-(2,4′-difluoro-2′-methoxy-biphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol as an off-white solid (5 mg, 4%): m/z (ES+) 413 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 4-fluoro-2-methoxybenzeneboronic acid | FC1=CC(=C(C=C1)B(O)O)OC | C7H8BFO3
product | 2-[3-(2,4′-difluoro-2′-methoxy-biphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol | 5 mg, 4% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)C2=C(C=C(C=C2)F)OC | C23H19F3N2O2
